Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seafood / abacavir sulfate / Phenothiazines
 
Attending: ___.
 
Chief Complaint:
Scheduled chemotherapy 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per HPI:

___ is a ___ yo man with HIV, DLBCL (c/b large
pleural mass) here for C5 of DA-EPOCH/rituxan. 

He has tolerated his previous cycles well with only intermittent
neuropathy. 

He was seen in clinic today and received his rituxan prior to
admission. 

He otherwise notes some clear rhinorrhea and itchy throat over
the last week, which he attributes to allergies. He denies any
fevers, cough, cold symptoms, diarrhea, abdominal pain, dysuria.
No constipation, last BM was this morning. He has not had 
nausea.
He takes ativan at bedtime for sleep but otherwise has not
required PRNs. 

All other review of systems are negative unless stated otherwise
 
Past Medical History:
As per HPI:
HIV-dx in ___
HTN
HLD
Depression
h/o shingles
Seasonal allergies
Tonsillectomy at age ___  

TREATMENT HX
___: IT MTX
___: C1D1 da-EPOCH, dose level 1
___: C1D1 Rituxan
___: C2D1 da-R-EPOCH, dose level 1
___: C3D1 da-R-EPOCH, dose level 2
___: C4D1 da-R-EPOCH, dose level 2   
 
Social History:
___
Family History:
As per HPI:
Mother (d) ___- MI
Father (d) ___- aortic stenosis, COPD
PGM (d) 53 - Stomach CA
PGF (d) ___ - MI
2 Brothers with hemochromatosis
another brother and 1 sister all alive and well.
No other known family history of blood cancers or blood
disorders.
 
Physical Exam:
Admission:
General: Well appearing middle aged man, bald
Neuro: Cranial nerves: PERRL, EOMI, Facial sensation equal 
bilaterally,
resists eye opening ___, hearing intact to finger rub b/l, 
palate
elevates symmetrically, tongue midline, shoulder shrug ___
Sensatin intact to light touch over UE and ___
Alert and oriented, provides clear and crisp history
HEENT: Oropharynx clear, MMM, no scleral icterus
Cardiovascular: RRR no murmurs
Chest/Pulmonary: Clear to auscultation bilaterally
Abdomen: Soft, nontender, nondistended, normoactive bowel sounds
Pelvis/GU: No CVA tenderness
Back: no spinal tenderness
Extr/MSK: No peripheral edema
Skin: No rashes
Access: R POC c/d/i

Discharge:
General:  Well appearing adult man in no acute distress, sitting
upright in chair comfortable
HEENT: Oropharynx clear, MMM, no lesions, PERRLA 
CV:  RRR no murmurs, normal distal perfusion without edema
PULM:  Clear to auscultation bilaterally, no wheezes rales or
rhonchi, normal respiratory rate
ABD:  Soft, nontender, nondistended, no rebound or guarding
LIMBS: No peripheral edema, no deformity, normal muscle bulk
SKIN:  No rash, warm/dry
NEURO: Alert and oriented x3, fluent speech
PSYCH: normal mood, insight, judgment 
ACCESS: R POC c/d/i
 
Pertinent Results:
Admission:
___ 11:19AM BLOOD WBC-6.7 RBC-2.74* Hgb-9.7* Hct-29.6* 
MCV-108* MCH-35.4* MCHC-32.8 RDW-18.2* RDWSD-69.6* Plt ___
___ 11:19AM BLOOD UreaN-9 Creat-1.0 Na-142 K-4.6 Cl-104 
HCO3-25 AnGap-13
___ 11:19AM BLOOD ALT-11 AST-17 LD(LDH)-277* AlkPhos-86 
TotBili-0.2
___ 11:19AM BLOOD Calcium-9.6 UricAcd-4.5

Discharge:

___ 05:40AM BLOOD Calcium-9.1 Phos-3.9 Mg-2.2
___ 05:40AM BLOOD ALT-12 AST-15 AlkPhos-55 TotBili-0.4
___ 05:40AM BLOOD Glucose-125* UreaN-17 Creat-0.7 Na-140 
K-4.0 Cl-104 HCO3-24 AnGap-12
___ 05:40AM BLOOD WBC-6.1 RBC-2.27* Hgb-8.0* Hct-24.1* 
MCV-106* MCH-35.2* MCHC-33.2 RDW-17.5* RDWSD-69.0* Plt ___

Micro:
None

Imaging:
CXR ___:
Right-sided port with tip terminating in the cavoatrial 
junction.
 
Brief Hospital Course:
___ PMH of HIV, DLBCL (c/b large pleural mass) here for C5 of 
DA-EPOCH-R who tolerated chemotherapy without incident, was 
discharged with instruction to take neupogen ___ hrs after 
chemotherapy, and f/u in clinic for count checks and 
re-evaluation. 

#Anemia
Patient's chemotherapy induced anemia remained near baseline and 
should be trended in outpatient setting. 

#HIV
Patient continued to receive his dolutegravir and 
emtricitabine-tenofovir during hospitalization. CD4 and VL were 
not checked

#Depression/Anxiety
Patient's depression was not active but he was again upset that 
his chemotherapy was started later in the day, causing him to be 
discharged late into the evening. 

#HTN: 
Patient has been off of lisinopril for months, and BP remained 
stable during hospitalization.

Transitional Issues:
1. Patient is to take 100mg prednisone on ___ at 8am
2. Patient is to start neupogen dosing on ___. Patient is to have anemia trended at next outpatient followup 
appointment
4. Patient is to have WBC trended at next outpatient apt given 
chemotherapy/neupogen use

I personally spent 43 minutes preparing discharge paperwork, 
coordinating care with outpatient providers, educating patient, 
and answering questions. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Allopurinol ___ mg PO DAILY 
3. Cetirizine 10 mg PO DAILY:PRN allergies 
4. Dolutegravir 50 mg PO DAILY 
5. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
6. LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia 
7. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Ondansetron ODT 8 mg PO Q8H:PRN nausea 
10. Filgrastim-sndz 480 mcg SC Q24H 

 
Discharge Medications:
1.  PredniSONE 100 mg PO BID Duration: 5 Days 
RX *prednisone 50 mg 2 tablet(s) by mouth once Disp #*2 Tablet 
Refills:*0 
2.  Acyclovir 400 mg PO Q12H  
3.  Allopurinol ___ mg PO DAILY  
4.  Cetirizine 10 mg PO DAILY:PRN allergies  
5.  Dolutegravir 50 mg PO DAILY  
6.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
7.  Filgrastim-sndz 480 mcg SC Q24H  
8.  LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia  
9.  Multivitamins 1 TAB PO DAILY  
10.  Ondansetron ODT 8 mg PO Q8H:PRN nausea  
11.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Diffuse large b-cell lymphoma
# Encounter for chemotherapy
# HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking of you at ___ 
___. You were admitted for you scheduled chemotherapy, which 
you tolerated well.

Please be sure to take 100mg of prednisone on ___ at 8 am to 
complete your regimen.

Please be sure to start taking your neupogen (Zarxio) shots on 
the morning of ___. 

You will also need to have your blood counts checked regularly, 
next on ___, and follow up with Dr. ___ as scheduled. 
 
Followup Instructions:
___